US06953857B2
(ii) 3-[2-(2,4-Dichloro-phenyl)-ethoxy]-terephthalamic acid
103 mg of 3-[2-(2,4-Dichloro-phenyl)-ethoxy]-terephthalamic acid methyl ester were dissolved in 1.2 ml of MeOH/water 3:1. 14 mg of lithium hydroxide monohydrate were added to the added to the solution, and the reaction was stirred at RT for 16 h and 2 h at 50° C. The solution was cooled to RT, then acidified with half-concentrated hydrochloric acid. The suspension was concentrated under reduced pressure and then extracted with ethyl acetate. The organic layer was dried over Na2SO4 and the solvent was removed under reduced pressure to yield a white solid.

reactant | 3-[2-(2,4-Dichloro-phenyl)-ethoxy]-terephthalamic acid methyl ester | 103 mg | COC(C1=CC(=C(C(=O)N)C=C1)OCCC1=C(C=C(C=C1)Cl)Cl)=O | C17H15Cl2NO4
reactant | lithium hydroxide monohydrate | 14 mg | O.[OH-].[Li+]
reactant | hydrochloric acid | Cl | ClH
solvent | MeOH water | 1.2 ml | CO.O
product | 3-[2-(2,4-Dichloro-phenyl)-ethoxy]-terephthalamic acid | ClC1=C(C=CC(=C1)Cl)CCOC=1C=C(C(=O)O)C=CC1C(=O)N | C16H13Cl2NO4
